US08865726B2
A mixture of 3-bromopyridin-2-ol (1.0 g, 5.75 mmol) in DMF (6 mL) was treated with cesium carbonate (1.87 g, 5.75 mmol) and ethyl iodide (1.38 mL, 17.2 mmol). The mixture was heated at 80° C. for 4 hours. The solvent was concentrated and the residue taken in EtOAc, washed with brine, dried (phase separator silicone treated filter paper), concentrated and purified on silica gel (1:2 hexane/ether) to provide 3-bromo-1-ethylpyridin-2(1H)-one (0.905 g, 78% yield) as a yellow oil.

reactant | 3-bromopyridin-2-ol | 5.75 mmol, 1.0 g | BrC=1C(=NC=CC1)O | C5H4BrNO
reactant | cesium carbonate | 5.75 mmol, 1.87 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl iodide | 17.2 mmol, 1.38 mL | C(C)I | C2H5I
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 3-bromo-1-ethylpyridin-2(1H)-one | 0.905 g, 78% yield | BrC=1C(N(C=CC1)CC)=O | C7H8BrNO
